US06780855B2
A solution of 273 mg of 3-benzyloxy-7α-(4-chlorobutyl)-11β-fluor-estra-1,3,5(10)-trien-17-one in 7 ml of dimethylformamide is stirred with 262 mg of sodium iodide and 0.5 ml of n-pentylamine for 24 hours at 80° C. Then, the reaction mixture is added to ice water, extracted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated by evaporation in a vacuum. After the crude product is chromatographed on silica gel with a methylene chloride-methanol gradient, 275 mg of 7α-(5-azadecyl)-3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-one is obtained.

reactant | 3-benzyloxy-7α-(4-chlorobutyl)-11β-fluor-estra-1,3,5(10)-trien-17-one | 273 mg | C(C1=CC=CC=C1)OC1=CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)F)=O)CCCCCl | C29H34ClFO2
reactant | sodium iodide | 262 mg | [I-].[Na+]
reactant | n-pentylamine | 0.5 ml | C(CCCC)N | C5H13N
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 7α-(5-azadecyl)-3-benzyloxy-11β-fluor-estra-1,3,5(10)-trien-17-one | 275 mg | C(CCCNCCCCC)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)OCC1=CC=CC=C1)F)=O | C34H46FNO2
